US06180627B2
Benzyl 2-[3-chloro-2-methyl-6-oxo-5-({[(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methyl}amino)-1(6H)-pyrazinyl]acetate
A mixture of [(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methylamine (preparation 157) (460 mg, 2.50 mmol), benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 17), and triethylamine (870 ml, 6.24 mmol) in ethyl acetate (8 ml) was heated under reflux for 18 hrs, then cooled. Water (1.5 ml) was added, the reaction mixture dried over MgSO4, and filtered through celite, washing the filter pad well with ethyl acetate. The combined filtrates were concentrated under reduced pressure and the residue purified by column chromatography on silica gel using hexane:ethyl acetate (50:50) as eluant to give the desired product as a white solid, (970 mg, 82%).

reactant | [(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methylamine | 2.50 mmol, 460 mg | O1CCC(CC1)N1[C@H](CCC1)CN | C10H20N2O
reactant | benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | ClC1=C(N(C(C(=N1)Cl)=O)CC(=O)OCC1=CC=CC=C1)C | C14H12Cl2N2O3
reactant | triethylamine | 6.24 mmol, 870 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 1.5 ml | O | H2O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-[3-chloro-2-methyl-6-oxo-5-({[(2R)-1-tetrahydro-2H-pyran-4-yl-2-pyrrolidinyl]methyl}amino)-1(6H)-pyrazinyl]acetate | 970 mg, 82% | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCC1)C1CCOCC1)=O)CC(=O)OCC1=CC=CC=C1)C | C24H31ClN4O4
